US09260397B2
1-(4-bromophenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 1.62 mmol (0.361 g) 1-(4-bromophenyl)imidazole and 1.78 mmol (0.319 g, 0.28 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 2.5 h to 100° C.

reactant | 1-(4-bromophenyl)imidazole | 1.62 mmol, 0.361 g | BrC1=CC=C(C=C1)N1C=NC=C1 | C9H7BrN2
reactant | 1-bromoheptane | 1.78 mmol, 0.28 ml, 0.319 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-3-heptyl imidazolium bromide | [Br-].BrC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C16H22BrN2.BrH/c1-2-3-4-5-6-11-18-12-13-19(14-18)16-9-7-15(17)8-10-16;/h7-10,12-14H,2-6,11H2,1H3;1H/q+1;/p-1
